US09371322B2
Synthesis of 6-(3-(2-(3,4-dimethoxyphenoxyl)ethyl)-2-oxo-3,10-diazabicyclo-[4.3.1]decan-10-ylsulfonyl)benzo[d]thiazol-2(3H)-one 5d
3-(2-(3,4-Dimethoxyphenoxy)ethyl)-3,10-diazabicyclo[4.3.1]decan-2-one (15 mg, 0.05 mmol) in 3 ml DCM was treated with DIPEA (12 mg, 0.09 mmol) and stirred for 30 min at room temperature followed by addition of 2-oxo-2,3-dihydrobenzo[d]thiazole-6-sulfonyl chloride (22 mg, 0.09 mmol). After stirring overnight at room temperature, the reaction was quenched with saturated NH4Cl solution (5 ml), extracted with DCM (4×10 ml). The organic layers were dried over MgSO4 and concentrated in vacuo. The mixture was purified with Preparative-HPLC in 55-65% buffer B in 16 mins.

reactant | 3-(2-(3,4-Dimethoxyphenoxy)ethyl)-3,10-diazabicyclo[4.3.1]decan-2-one | 0.05 mmol, 15 mg | COC=1C=C(OCCN2C(C3CCCC(CC2)N3)=O)C=CC1OC | C18H26N2O4
reactant | DIPEA | 0.09 mmol, 12 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-oxo-2,3-dihydrobenzo[d]thiazole-6-sulfonyl chloride | 0.09 mmol, 22 mg | O=C1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C7H4ClNO3S2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 6-(3-(2-(3,4-dimethoxyphenoxyl)ethyl)-2-oxo-3,10-diazabicyclo-[4.3.1]decan-10-ylsulfonyl)benzo[d]thiazol-2(3H)-one | COC=1C=C(OCCN2C(C3CCCC(CC2)N3S(=O)(=O)C3=CC2=C(NC(S2)=O)C=C3)=O)C=CC1OC | C25H29N3O7S2
